US04410520
A solution of diethyl 2-acetamido-2-(o-nitrophenethyl)malonate (80 g) in 3N hydrochloric acid (900 ml) was refluxed for 12 hours. The solution was cooled and extracted with ethyl acetate (200 ml). The aqueous solution was filtered, and evaporated to dryness under reduced pressure. The residue was recrystallized from ethanol/ether to give 2-amino-4-(2-nitrophenyl)butyric acid hydrochloride, m.p. 219°-221° (dec).

reactant | diethyl 2-acetamido-2-(o-nitrophenethyl)malonate | 80 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CCC1=C(C=CC=C1)[N+](=O)[O-] | C17H22N2O7
reactant | hydrochloric acid | 3N, 900 ml | Cl | ClH
product | 2-amino-4-(2-nitrophenyl)butyric acid hydrochloride | Cl.NC(C(=O)O)CCC1=C(C=CC=C1)[N+](=O)[O-] | InChI=1S/C10H12N2O4.ClH/c11-8(10(13)14)6-5-7-3-1-2-4-9(7)12(15)16;/h1-4,8H,5-6,11H2,(H,13,14);1H
